US07964642B2
1.3. Synthesis of 2-iodo-4-hydroxy-5-methoxy-benzylamine hydrochloride
37% hydrochloric acid (0.2 ml) was added to a solution of 2-iodo-4-acetyloxy-5-methoxy-N-acetyl-benzylamine (0.1 g, 0.27 mmol) in abs. ethanol (5 ml) and the mixture was refluxed for 12 hours. After cooling, the solvent was evaporated off under reduced pressure and the residue was recrystallized from dry acetone to afford the title compound as pale yellow solid in quantitative yield.

reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | 2-iodo-4-acetyloxy-5-methoxy-N-acetyl-benzylamine | 0.27 mmol, 0.1 g | IC1=C(CNC(C)=O)C=C(C(=C1)OC(C)=O)OC | C12H14INO4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-iodo-4-hydroxy-5-methoxy-benzylamine hydrochloride | quantitative yield | Cl.IC1=C(CN)C=C(C(=C1)O)OC | InChI=1S/C8H10INO2.ClH/c1-12-8-2-5(4-10)6(9)3-7(8)11;/h2-3,11H,4,10H2,1H3;1H
